US20010027196A1
2-Amino-6-cyclohexyloxy-4-furan-2-yl-pyridine-3,5-dicarbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile, cyclohexanol and DBU in DME. EI-MS m/e (%): 308 (M+, 12), 226 ([M—C6H10]−, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)S(=O)C | C12H8N4O2S
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-6-cyclohexyloxy-4-furan-2-yl-pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)OC1CCCCC1 | C17H16N4O2
